*Q1 Project
*V1	1	0	AC  1 dc 1 
V1 	1 0 PULSE(0V 1V 0s 0.1ns 0.1ns 5ns 10ns)
R1  1   2   50 
R2  3   0   120
R3  0   4   50
R4  5   0   120
*V2	6	0	AC  1 dc 1
V2 	6 0 PULSE(0V 1V 0s 0.1ns 0.1ns 5ns 10ns)
R5  6   7   50
R6  8   0   120

CTL11 2 0 5.872857e-14  
     
RTL11 2 9 1.033571e-02  
     
LTL11 9 10 4.257643e-10  
     
ETL11 10 11 36 37 2.400249e-04
     
ETL12 11 12 63 64 1.654661e-04
     
CTL12 12 0 5.872857e-14  
     
RTL12 12 13 1.033571e-02  
     
LTL12 13 14 4.257643e-10  
     
ETL13 14 15 40 41 2.400249e-04
     
ETL14 15 16 67 68 1.654661e-04
     
CTL13 16 0 5.872857e-14  
     
RTL13 16 17 1.033571e-02  
     
LTL13 17 18 4.257643e-10  
     
ETL15 18 19 44 45 2.400249e-04
     
ETL16 19 20 71 72 1.654661e-04
     
CTL14 20 0 5.872857e-14  
     
RTL14 20 21 1.033571e-02  
     
LTL14 21 22 4.257643e-10  
     
ETL17 22 23 48 49 2.400249e-04
     
ETL18 23 24 75 76 1.654661e-04
     
CTL15 24 0 5.872857e-14  
     
RTL15 24 25 1.033571e-02  
     
LTL15 25 26 4.257643e-10  
     
ETL19 26 27 52 53 2.400249e-04
     
ETL110 27 28 79 80 1.654661e-04
     
CTL16 28 0 5.872857e-14  
     
RTL16 28 29 1.033571e-02  
     
LTL16 29 30 4.257643e-10  
     
ETL111 30 31 56 57 2.400249e-04
     
ETL112 31 32 83 84 1.654661e-04
     
CTL17 32 0 5.872857e-14  
     
RTL17 32 33 1.033571e-02  
     
LTL17 33 34 4.257643e-10  
     
ETL113 34 35 60 61 2.400249e-04
     
ETL114 35 3 87 88 1.654661e-04
     
CTL21 4 0 6.847143e-14  
     
RTL21 4 36 1.033571e-02  
     
LTL21 36 37 4.001286e-10  
     
ETL21 37 38 9 10 2.255727e-04
     
ETL22 38 39 63 64 2.320819e-04
     
CTL22 39 0 6.847143e-14  
     
RTL22 39 40 1.033571e-02  
     
LTL22 40 41 4.001286e-10  
     
ETL23 41 42 13 14 2.255727e-04
     
ETL24 42 43 67 68 2.320819e-04
     
CTL23 43 0 6.847143e-14  
     
RTL23 43 44 1.033571e-02  
     
LTL23 44 45 4.001286e-10  
     
ETL25 45 46 17 18 2.255727e-04
     
ETL26 46 47 71 72 2.320819e-04
     
CTL24 47 0 6.847143e-14  
     
RTL24 47 48 1.033571e-02  
     
LTL24 48 49 4.001286e-10  
     
ETL27 49 50 21 22 2.255727e-04
     
ETL28 50 51 75 76 2.320819e-04
     
CTL25 51 0 6.847143e-14  
     
RTL25 51 52 1.033571e-02  
     
LTL25 52 53 4.001286e-10  
     
ETL29 53 54 25 26 2.255727e-04
     
ETL210 54 55 79 80 2.320819e-04
     
CTL26 55 0 6.847143e-14  
     
RTL26 55 56 1.033571e-02  
     
LTL26 56 57 4.001286e-10  
     
ETL211 57 58 29 30 2.255727e-04
     
ETL212 58 59 83 84 2.320819e-04
     
CTL27 59 0 6.847143e-14  
     
RTL27 59 60 1.033571e-02  
     
LTL27 60 61 4.001286e-10  
     
ETL213 61 62 33 34 2.255727e-04
     
ETL214 62 5 87 88 2.320819e-04
     
CTL31 7 0 6.237143e-14  
     
RTL31 7 63 1.033571e-02  
     
LTL31 63 64 3.993357e-10  
     
ETL31 64 65 9 10 1.551951e-04
     
ETL32 65 66 36 37 2.316220e-04
     
CTL32 66 0 6.237143e-14  
     
RTL32 66 67 1.033571e-02  
     
LTL32 67 68 3.993357e-10  
     
ETL33 68 69 13 14 1.551951e-04
     
ETL34 69 70 40 41 2.316220e-04
     
CTL33 70 0 6.237143e-14  
     
RTL33 70 71 1.033571e-02  
     
LTL33 71 72 3.993357e-10  
     
ETL35 72 73 17 18 1.551951e-04
     
ETL36 73 74 44 45 2.316220e-04
     
CTL34 74 0 6.237143e-14  
     
RTL34 74 75 1.033571e-02  
     
LTL34 75 76 3.993357e-10  
     
ETL37 76 77 21 22 1.551951e-04
     
ETL38 77 78 48 49 2.316220e-04
     
CTL35 78 0 6.237143e-14  
     
RTL35 78 79 1.033571e-02  
     
LTL35 79 80 3.993357e-10  
     
ETL39 80 81 25 26 1.551951e-04
     
ETL310 81 82 52 53 2.316220e-04
     
CTL36 82 0 6.237143e-14  
     
RTL36 82 83 1.033571e-02  
     
LTL36 83 84 3.993357e-10  
     
ETL311 84 85 29 30 1.551951e-04
     
ETL312 85 86 56 57 2.316220e-04
     
CTL37 86 0 6.237143e-14  
     
RTL37 86 87 1.033571e-02  
     
LTL37 87 88 3.993357e-10  
     
ETL313 88 89 33 34 1.551951e-04
     
ETL314 89 8 60 61 2.316220e-04
     
CCTL1TL21 2 4 -1.809286e-14  
     
CCTL1TL31 2 7 -8.771429e-15  
     
CCTL2TL31 4 7 -1.809286e-14  
     
CCTL1TL22 12 39 -1.809286e-14  
     
CCTL1TL23 16 43 -1.809286e-14  
     
CCTL1TL24 20 47 -1.809286e-14  
     
CCTL1TL25 24 51 -1.809286e-14  
     
CCTL1TL26 28 55 -1.809286e-14  
     
CCTL1TL27 32 59 -1.809286e-14  
     
CCTL1TL32 12 66 -8.771429e-15  
     
CCTL1TL33 16 70 -8.771429e-15  
     
CCTL1TL34 20 74 -8.771429e-15  
     
CCTL1TL35 24 78 -8.771429e-15  
     
CCTL1TL36 28 82 -8.771429e-15  
     
CCTL1TL37 32 86 -8.771429e-15  
     
CCTL2TL32 39 66 -1.809286e-14  
     
CCTL2TL33 43 70 -1.809286e-14  
     
CCTL2TL34 47 74 -1.809286e-14  
     
CCTL2TL35 51 78 -1.809286e-14  
     
CCTL2TL36 55 82 -1.809286e-14  
     
CCTL2TL37 59 86 -1.809286e-14 
     
.ac LIN 600 100000  10000000000

*.tran 0.01ns 10ns

.option post=1

.end